US05118827
To a solution of 15-chloro-2-hydroxy-3-(1-methylethyl)-6,10,14-trimethyl-3,5,9,13 pentadecatetraenenitrile (204 mg, 0.56 mmol) prepared in Reference Example 6 and ethyl vinyl ether (100 μl, 0.96 mmol) in dichloromethane (5 ml) is added a very small amount of paratoluenesulfonic acid while stirring under nitrogen atmosphere on an ice-water bath. After 10 minutes, to the mixture are added a saturated aqueous sodium hydrogencarbonate solution (15 ml) and n-hexane/ether (1:1) solution (20 ml) and the organic layer is separated. The aqueous layer is then extracted with n-hexane/ether (1:1) solution (20 ml) for several times. The organic layers are combined and dried over anhydrous sodium sulfate and the solvent is removed by distillation under reduced pressure. The resulting residue is purified by silca gel column chromatography (n-hexane/ethyl acetate =20:1) to give 15-chloro-2-(1-ethoxyethoxy)3-(1-methylethyl)-6,10,14-trimethyl-3,5,9,13-pentadecatetraenenitrile (207 mg, 85%).

reactant | 15-chloro-2-hydroxy-3-(1-methylethyl)-6,10,14-trimethyl-3,5,9,13 pentadecatetraenenitrile | 0.56 mmol, 204 mg | ClCC(=CCCC(=CCCC(=CC=C(C(C#N)O)C(C)C)C)C)C | C21H32ClNO
reactant | ethyl vinyl ether | 0.96 mmol, 100 μl | C(=C)OCC | C4H8O
reactant | sodium hydrogencarbonate | 15 ml | C(O)([O-])=O.[Na+]
reactant | n-hexane ether | CCCCCC.CCOCC
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 15-chloro-2-(1-ethoxyethoxy)3-(1-methylethyl)-6,10,14-trimethyl-3,5,9,13-pentadecatetraenenitrile | 207 mg, 85% | ClCC(=CCCC(=CCCC(=CC=C(C(C#N)OC(C)OCC)C(C)C)C)C)C | C25H40ClNO2
